US07906645B2
1-[(1-Benzylpiperidin-3-yl)methyl]piperazin-2-one dihydrochloride
To a solution of tert-butyl 4-[(1-benzylpiperidin-3-yl)methyl]-3-oxopiperazine-1-carboxylate (95 mg) in dichloromethane (1 mL) was added 4M hydrochloric acid in dioxane (1 mL). The mixture was stirred at room temperature for 15 minutes and then evaporated to give the title compound as a sticky white solid (89 mg, 100%).

reactant | tert-butyl 4-[(1-benzylpiperidin-3-yl)methyl]-3-oxopiperazine-1-carboxylate | 95 mg | C(C1=CC=CC=C1)N1CC(CCC1)CN1C(CN(CC1)C(=O)OC(C)(C)C)=O | C22H33N3O3
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 1-[(1-Benzylpiperidin-3-yl)methyl]piperazin-2-one dihydrochloride | 89 mg, 100% | Cl.Cl.C(C1=CC=CC=C1)N1CC(CCC1)CN1C(CNCC1)=O | InChI=1S/C17H25N3O.2ClH/c21-17-11-18-8-10-20(17)14-16-7-4-9-19(13-16)12-15-5-2-1-3-6-15;;/h1-3,5-6,16,18H,4,7-14H2;2*1H
